data/pmechdb/original/mc_train_fold0/raw/train.txt
COC1=C[CH:10]=[C:11]([CH:12]=[C:13]1[O:14]C)CC[N+:21]2=[C:20]3CCC(=O)CC3(CC2=O)C(=O)OC.OP(=O)(O)OP(=O)(O)[O-]>>COC1=C[CH:10]2[C:11](=[CH:12][C:13]1=[O+:14]C)CC[N:21]3[C:20]24CCC(=O)CC4(CC3=O)C(=O)OC.OP(=O)(O)OP(=O)(O)[O-] 10,11=10,20;20,21=21;12,13=11,12;14=13
[H:20][CH:21]1COC([C:22]1=[OH+:23])(C)OC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1([C:22](=[CH:21]CO1)[OH:23])OC 10=20;22,23=23;20,21=21,22
[B-:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4C)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)[Br:11]>>[B:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4C)C(O2)C(=O)CC5)O)C=C1)(Br)Br.[Br-:11] 10,11=11
CC[Si:20](CC)(CC)C[C+]1CC(CC1=C)(C(=O)OC)C(=O)OC.C(=O)(C(F)(F)F)[O-:10]>>CC[Si-:20](CC)(CC)(C[C+]1CC(CC1=C)(C(=O)OC)C(=O)OC)[O:10]C(=O)C(F)(F)F 10=20,
CC1CC2C(C1OCC3=CC=CC=C3)CC4(C2(C5C=CC(C5CC4[OH:10])(C)C)O)C.[CH2:21]=[S:20](=O)=O.CC[NH+](C(C)C)C(C)C.[Cl-]>>CC1CC2C(C1OCC3=CC=CC=C3)CC4(C2(C5C=CC(C5CC4[OH+:10][S:20](=O)(=O)[CH2-:21])(C)C)O)C.CC[NH+](C(C)C)C(C)C.[Cl-] 10=20;20,21=21
[CH3:20][I:21].[SH2:10]>>[CH3:20][SH2+:10].[I-:21] 10=20;20,21=21
[H:20][C:21]1(CCC[C:22]1=[O:23])C(=O)OCC.CC[O-:10]>>[H:20][O:10]CC.CCOC(=O)[C:21]1=[C:22](CCC1)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CCNC(C)(C)[OH:10]>>[H:20][OH+:10]C(C)(C)NCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][F:21].[CH2:10]=[CH:11]CCCCC1=CC=CC=C1>>[H:20][CH2:10][CH+:11]CCCCC1=CC=CC=C1.[F-:21] 10,11=10,20;20,21=21
CC(=O)OC12CCCCC1C3(C2CCCC3O[S:20](=O)(C)([O-:10])[Cl:21])O.C1=CC=[NH+]C=C1>>CC(=O)OC12CCCCC1C3(C2CCCC3O[S:20](=O)(=[O:10])C)O.[Cl-:21].C1=CC=[NH+]C=C1 10=20;20,21=21
CC(=O)[O-:10].C[Si:20](C)(C)OS(=O)(=O)C>>CC(=O)[O:10][Si-:20](C)(C)(C)OS(=O)(=O)C 10=20,
[H:20][C:21]1([CH+:22]C=CS1)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CS1 10=20;20,21=21,22
CC(CCO[P:10](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[Br:11])CCBr.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br>>CC(CCO[P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)CCBr.[Br-:11].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br 10,11=11
[H:20][OH2+:21].CC(C)(O)[O:10]CC(C)(CO)C(=O)OCC#C.CO.OS(=O)(=O)[O-]>>[H:20][O+:10](CC(C)(CO)C(=O)OCC#C)C(C)(C)O.[OH2:21].CO.OS(=O)(=O)[O-] 10=20;20,21=21
CC(C)[C+:20](C)CC=NC.CC(C)(C)[OH:10]>>CC(C)[C:20](C)(CC=NC)[OH+:10]C(C)(C)C 10=20,
[H:20][C:21]1(C=CC(=N[C:22]1=[NH2+:23])N)C(Cl)Cl.[OH-:10].CCO.[Na+]>>[H:20][OH:10].C1=CC(=N[C:22](=[C:21]1C(Cl)Cl)[NH2:23])N.CCO.[Na+] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C12CCC(C1(CCC3C2COC(=O)C3)C)OS(=O)(=O)C4=CC=C(C=C4)C.[H:10][Na:11]>>CC1=CC=C(C=C1)S(=O)(=O)OC2CCC3(C2(CCC4C3COC(=O)C4)C)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
CO[C:20]1([NH:10]CCC[OH+:21]1)O>>CO[C:20](=[NH+:10]CCC[OH:21])O 10=20;20,21=21
COP(=O)([CH2:21][CH2:20][O-:10])OC>>COP(=O)([CH2-:21])OC.[CH2:20]=[O:10] 10=20;20,21=21
[H:20][CH:21]1C(CC[C:22]1=[O:23])O.C[O-:10]>>[H:20][O:10]C.C1C[C:22](=[CH:21]C1O)[O-:23] 10=20;22,23=23;20,21=21,22
[CH3:1][C:2]12[CH2:3][CH:4]([C:6]([CH2:9][CH:10]1[CH2:11][CH:12]([CH2:27][C:28]23[O:29][CH2:30][CH2:31][O:32]3)[C:13]([CH3:26])([OH:14])[O:15][O:16][C:17](=[O:25])[C:18]4=[CH:19][CH:20]=[CH:21][C:22](=[CH:24]4)[Cl:23])([CH3:7])[OH:8])[OH:5]>>[CH3:26][C:13](=[OH+:14])[O:15][CH:12]1[CH2:11][CH:10]2[CH2:9][C:6]([CH:4]([CH2:3][C:2]2([C:28]3([CH2:27]1)[O:29][CH2:30][CH2:31][O:32]3)[CH3:1])[OH:5])([CH3:7])[OH:8].[CH:20]1=[CH:21][C:22](=[CH:24][C:18](=[CH:19]1)[C:17](=[O:25])[O-:16])[Cl:23] 14=13;12,13=12,15;15,16=16
C[CH2:20][Br:21].C[C:10](=[C:11](C)[O-:12])C>>C[CH2:20][C:10](C)(C)[C:11](=[O:12])C.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:10][C:11]1(CC(C2(C1C=C(CCC2)C)C)O[Sn-](Cl)(Cl)(Cl)Cl)[C+:20](C)C.Cl>>[H:10][C:20](C)(C)[C+:11]1CC(C2(C1C=C(CCC2)C)C)O[Sn-](Cl)(Cl)(Cl)Cl.Cl 10,11=10,20
[H:20][CH:21](C)[C+:22](C)C=O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[CH:21]=[C:22](C)C=O 10=20;20,21=21,22
CCCCCCCCC=CCCCCCCC[C:20](=[O:21])OC(=[NH+]C1CCCCC1)NC2CCCCC2.CN(C)C1=CC=[N:10]C=C1.CCCCCCCCC=CCCCCCCCC(=O)[O-].C1=CC=C(C=C1)CO>>CCCCCCCCC=CCCCCCCC[C:20]([N+:10]1=CC=C(C=C1)N(C)C)([O-:21])OC(=[NH+]C2CCCCC2)NC3CCCCC3.CCCCCCCCC=CCCCCCCCC(=O)[O-].C1=CC=C(C=C1)CO 10=20;20,21=21
CCC1CC[CH:20]=[CH:21]C1=O.C1CCC(CC1)[S-:10]>>CCC1CC[CH:20]([CH-:21]C1=O)[S:10]C2CCCCC2 10=20;20,21=21
[H:20][O:21]C(=O)CC1=CC(=C(C(=C1)OC)OC)OC.CC[N:10](CC)CC.CC(=O)OC(=O)C.COC1=C(C=C(C=C1)C=O)O>>[H:20][N+:10](CC)(CC)CC.COC1=CC(=CC(=C1OC)OC)CC(=O)[O-:21].CC(=O)OC(=O)C.COC1=C(C=C(C=C1)C=O)O 10=20;20,21=21
COC1=CC=C(C=C1)[P:10](C2=CC=C(C=C2)OC)C3=CC=C(C=C3)OC.[CH3:20][I:21]>>COC1=CC=C(C=C1)[P+:10]([CH3:20])(C2=CC=C(C=C2)OC)C3=CC=C(C=C3)OC.[I-:21] 10=20;20,21=21
[H:20][O+:21]=CS.[OH2:10]>>[H:20][OH2+:10].C(=[O:21])S 10=20;20,21=21
CN(C)C1=CC=[N:10]C=C1.C1=CC=C(C=C1)[C:20](=[O:21])Cl.C1=CC=NC=C1.C1=CC(=C(C=C1)[N+](=O)[O-])N>>CN(C)C1=CC=[N+:10](C=C1)[C:20](C2=CC=CC=C2)([O-:21])Cl.C1=CC=NC=C1.C1=CC(=C(C=C1)[N+](=O)[O-])N 10=20;20,21=21
[H:20][C:21](C#N)(C(C1=CC=C(C=C1)C)N2CCCCC2)[C:22](=[OH+:23])CC(C)(C)C.C1CC[NH:10]CC1>>[H:20][NH+:10]1CCCCC1.CC1=CC=C(C=C1)C([C:21](=[C:22](CC(C)(C)C)[OH:23])C#N)N2CCCCC2 10=20;22,23=23;20,21=21,22
